US04658039
Acemetacin
0.003 mole of tetrakis-triphenylphosphine-palladium-(O) is added to 0.03 mole of acemetacin allyl ester in 50 ml of tetrahydrofuran, under nitrogen. 0.3 mole of piperidine is added dropwise at 20°-25° C., with stirring, and stirring is then continued for 2 hours at room temperature (check by thin layer chromatography). 200 ml of half-concentrated hydrochloric acid are added dropwise with cooling, the phases are separated off, the aqueous phase is extracted twice with methylene chloride and the combined organic phases are evaporated in vacuo. The residue is recrystallised from toluene.

reactant | Allyl 1-(4-chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxyacetate | 0.03 mole | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)OCC(=O)OCC=C)C)C=C1 | C24H22ClNO6
reactant | piperidine | 0.3 mole | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Acemetacin | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)OCC(=O)O | C21H18ClNO6
